US07625931B2
DMF (20 mL) is added to 4-(1H-Imidazol-2-yl)-pyridine (930 mg, 6.4 mmol), sodium carbonate (1.92 g, 20 mmol), and 3-nitrobenzyl chloride (1.71 g, 10 mmol) and the mixture is warmed to 50° C. for 4 h. Water (100 mL) is added and the corresponding mixture is extracted with EtOAc (100 mL), dried over anhydrous sodium sulfate, and crude solution is concentrated under reduced pressure. The organics are dissolved in DCM and filtered through a plug of silica eluting first with DCM, and then washing with 20% MeOH:80% DCM to afford 4-[1-(3-Nitro-benzyl)-1H-imidazol-2-yl]-pyridine as an off-white solid.

reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | 4-(1H-Imidazol-2-yl)-pyridine | 6.4 mmol, 930 mg | N1C(=NC=C1)C1=CC=NC=C1 | C8H7N3
reactant | sodium carbonate | 20 mmol, 1.92 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 3-nitrobenzyl chloride | 10 mmol, 1.71 g | [N+](=O)([O-])C=1C=C(CCl)C=CC1 | C7H6ClNO2
solvent | Water | 100 mL | O | H2O
product | 4-[1-(3-Nitro-benzyl)-1H-imidazol-2-yl]-pyridine | [N+](=O)([O-])C=1C=C(CN2C(=NC=C2)C2=CC=NC=C2)C=CC1 | C15H12N4O2
